US07514567B2
(R)-3′-(Thiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
(S)-Spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one (505 mg, 3.58 mmol), 5-bromothiophene (1.75 g, 10.74 mmol), copper (I) iodide (69 mg, 0.36 mmol) and potassium carbonate (495 mg, 3.58 mmol) were stirred at 120° C. overnight. After cooling to room temperature, the mixture was purified by flash chromatography using a gradient of ammoniated methanol in chloroform to give the title compound as a yellow solid (450 mg), m/zz 265 (MH+).

reactant | (S)-Spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 3.58 mmol, 505 mg | O1C(NC[C@@]12CN1CCC2CC1)=O | C9H14N2O2
reactant | 5-bromothiophene | 10.74 mmol, 1.75 g | BrC1=CC=CS1 | C4H3BrS
reactant | potassium carbonate | 3.58 mmol, 495 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper (I) iodide | 0.36 mmol, 69 mg | [Cu]I
product | (R)-3′-(Thiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 450 mg | S1C(=CC=C1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C13H16N2O2S
